US04357351
Reaction product of 2 moles of 1-phenyl-3-n-heptyl-2-S-ethyl isothiourea + toluene-2,4-diisocyanate
The equipment was the same as used in Example 26. 2.78 g (0.01 mole) 1-phenyl-3-n-heptyl-2-S-ethyl isothiourea in 35 ml of tetrahydrofuran were mixed with 0.87 g (0.005 mole) toluene-2,4-diisocyanate. The reaction mixture was then refluxed on a steam bath for 1 hour, then 15 drops of the isothiourea was added, and the reaction mixture was refluxed for an additional hour to react all the isocyanate. The reaction mixture was vacuum evaporated to produce 4.1 g of a viscous, yellow liquid having a nD30 of 1.5737. The produce was identified as the title product by IR and NMR spectra analyses. Compound No. 151 in Table I.

reactant | 1-phenyl-3-n-heptyl-2-S-ethyl isothiourea | 0.01 mole, 2.78 g | C1(=CC=CC=C1)NC(SCC)=NCCCCCCC | C16H26N2S
reactant | toluene-2,4-diisocyanate | 0.005 mole, 0.87 g | CC1=C(C=C(C=C1)N=C=O)N=C=O | C9H6N2O2
reactant | isocyanate | [N-]=C=O
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
catalyst | isothiourea | 15 drops | NC(S)=N | CH4N2S
product | 1-phenyl-3-n-heptyl-2-S-ethyl isothiourea toluene-2,4-diisocyanate | C1(=CC=CC=C1)NC(SCC)=NCCCCCCC.CC1=C(C=C(C=C1)N=C=O)N=C=O | InChI=1S/C16H26N2S.C9H6N2O2/c1-3-5-6-7-11-14-17-16(19-4-2)18-15-12-9-8-10-13-15;1-7-2-3-8(10-5-12)4-9(7)11-6-13/h8-10,12-13H,3-7,11,14H2,1-2H3,(H,17,18);2-4H,1H3
